US07053212B2
Step A: Cyclohexanecarboxylic acid [4-(2-pyrrolidin-1-yl-ethoxy)-phenyl]-amide
To a solution of 4-(2-pyrrolidin-1-yl-ethoxy)-phenylamine (2.15 g, 10.42 mmol) and triethylamine (3.27 mL, 23.4 mmol) in 100 mL methylene chloride at 0° C. was added cyclohexanecarbonyl chloride (1.46 mL, 10.94 mmol), dropwise. The reaction mixture was stirred at room temperature for 24 hr. Saturated aqueous sodium bicarbonate was added and the layers were separated. The aqueous layer was washed with 50 mL methylene chloride. The combined organic layers were dried (magnesium sulfate), filtered, and concentrated to afford the title compound of Step A. MS 317.2 (M+1)+

reactant | 4-(2-pyrrolidin-1-yl-ethoxy)-phenylamine | 10.42 mmol, 2.15 g | N1(CCCC1)CCOC1=CC=C(C=C1)N | C12H18N2O
reactant | triethylamine | 23.4 mmol, 3.27 mL | C(C)N(CC)CC | C6H15N
reactant | cyclohexanecarbonyl chloride | 10.94 mmol, 1.46 mL | C1(CCCCC1)C(=O)Cl | C7H11ClO
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
product | Cyclohexanecarboxylic acid [4-(2-pyrrolidin-1-yl-ethoxy)-phenyl]-amide | N1(CCCC1)CCOC1=CC=C(C=C1)NC(=O)C1CCCCC1 | C19H28N2O2
